US07919519B2
Synthesized according to Scheme B2, Step 2 and general procedure F from 5-(2-phenylpropan-2-yl)benzofuran-2-ylboronic acid and ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate to give ethyl 1-(3-fluoro-4-(5-(2-phenylpropan-2-yl)benzofuran-2-yl)benzyl)azetidine-3-carboxylate as a yellow foam. MS (ESI) m/z: Calculated: 471.2; Observed: 472 (M++1).

reactant | 5-(2-phenylpropan-2-yl)benzofuran-2-ylboronic acid | C1(=CC=CC=C1)C(C)(C)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C17H17BO3
reactant | ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate | BrC1=C(C=C(CN2CC(C2)C(=O)OCC)C=C1)F | C13H15BrFNO2
product | ethyl 1-(3-fluoro-4-(5-(2-phenylpropan-2-yl)benzofuran-2-yl)benzyl)azetidine-3-carboxylate | FC=1C=C(CN2CC(C2)C(=O)OCC)C=CC1C=1OC2=C(C1)C=C(C=C2)C(C)(C)C2=CC=CC=C2 | C30H30FNO3
